US08012976B2
A mixture of methyl 3-(1-benzyl-4-methyl-1H-imidazol-2-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (250 mg, 0.57 mmol) and hydrazine monohydrate (3 mL) was stirred room temperature for 5 h. The resulting mixture was evaporated under reduced pressure to 15 ml and then filtered; the filtrate was concentrated to give 9-(1-benzyl-4-methyl-1H-imidazol-2-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one as a white solid (40 mg, yield 16%). LC-MS (ESI) m/z: 434 (M+1)+.

reactant | methyl 3-(1-benzyl-4-methyl-1H-imidazol-2-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.57 mmol, 250 mg | C(C1=CC=CC=C1)N1C(=NC(=C1)C)C1C(NC=2C=CC=C(C2C1=O)C(=O)OC)C1=CC=CC=C1 | C28H25N3O3
reactant | hydrazine monohydrate | 3 mL | O.NN
product | 9-(1-benzyl-4-methyl-1H-imidazol-2-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 40 mg, yield 16% | C(C1=CC=CC=C1)N1C(=NC(=C1)C)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=CC=C2 | C27H23N5O
